Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
food impaction
 
Major Surgical or Invasive Procedure:
EGD ___

 
History of Present Illness:
___ with no prior PMH who presents with globus sensation found 
to have food bolus on EGD. Patient was at a funeral reception 
when acutely felt like food was stuck in his throat after eating 
a piece of chicken. He continued to have difficulty handling 
secretions and given this, he went to the ED for further 
evaluation. Patient was evaluated by GI who recommended urgent 
EGD. On EGD, he was found to have food impaction that was 
cleared. As it was being cleared, a small tear was noted in the 
distal esophagus with brief bleeding, but no active bleeding at 
the end of procedure. Physical examination post-procedure 
revealed no crepitus. Otherwise normal EGD to third part of the 
duodenum. He was then sent to the PACU for post-op monitoring 
and given downtrending H/H (12.4 from 13.9) and tachycardia with 
spikes to 140/150, admitted to medicine for overnight 
monitoring.

 On interview, endorses mild chest pain since procedure ___. No 
SOB, difficulty breathing. No fever, chills, nausea, abdominal 
pain, dizziness.

 
Past Medical History:
Opiate abuse
 
Social History:
___
Family History:
na
 
Physical Exam:
 Vitals: 98.0
PO 124 / 75
R Sitting 81 22 99 RA   
 General: WDWN Caucasian male. A&O x 3 in NAD.  
 HEENT: EOMs in tact. dry MM. no pharyngeal erythema  
 Neck: supple, no crepitus  
 CV: RRR. S1/S2. no m/g/r  
 Lungs: CTAB  
 Abdomen: soft, NTND. +BS. no guarding/rebound  
 GU: no foley  
 Ext: wwp, 2+ pulses, no edema  
 Neuro: no gross focal deficits  
 Skin: no crepitus, no rash  
 LABS: reviewed in OMR 
 
Pertinent Results:
___ 12:45AM BLOOD WBC-8.9 RBC-4.53* Hgb-13.9 Hct-40.7 
MCV-90 MCH-30.7 MCHC-34.2 RDW-12.4 RDWSD-40.3 Plt ___
___ 12:45AM BLOOD Neuts-77.4* Lymphs-13.6* Monos-5.5 
Eos-3.0 Baso-0.2 Im ___ AbsNeut-6.89* AbsLymp-1.21 
AbsMono-0.49 AbsEos-0.27 AbsBaso-0.02
___ 12:45AM BLOOD Glucose-96 UreaN-13 Creat-0.9 Na-143 
K-3.9 Cl-104 HCO3-26 AnGap-17
___ 05:12AM BLOOD Calcium-9.4 Phos-3.7 Mg-1.9
___ 06:53AM BLOOD WBC-7.1 RBC-4.14* Hgb-12.7* Hct-37.4* 
MCV-90 MCH-30.7 MCHC-34.0 RDW-12.5 RDWSD-41.1 Plt ___
___ 04:00PM BLOOD Hgb-12.4* Hct-36.2*
___ 05:12AM BLOOD WBC-6.7 RBC-4.40* Hgb-13.6* Hct-39.4* 
MCV-90 MCH-30.9 MCHC-34.5 RDW-12.5 RDWSD-41.1 Plt ___
___ 05:12AM BLOOD Glucose-83 UreaN-14 Creat-0.9 Na-142 
K-4.0 Cl-105 HCO3-25 AnGap-16

 IMAGING:  
 CXR (___): per my read, no acute cardiopulmonary process, 
no obvious subcutaneous air  

EGD report:
___
A column of liquid was encountered in the esophagus and was 
cleared with suctioning. An obstructing bolus of food was noted 
at 38cm. The gastroscope was unable to pass around it. The food 
bolus was cleared piecemeal with large cap forceps and 
eventually passed into the stomach. As the food was being 
cleared, a small tear was noted in the distal esophagus with 
brief bleeding. This was carefully examined after the food bolus 
was cleared and there was no active bleeding at the end of the 
procedure. Abnormal mucosa in the esophagus. The patient 
remained hemodynamically stable throughout the procedure and 
awoke with no pain. Physical examination post-procedure revealed 
no crepitus. Otherwise normal EGD to third part of the duodenum

 
Brief Hospital Course:
___ with no prior PMH who presents with globus sensation found 
to have food bolus on EGD and distal esophageal tear, with H/H 
drop from 13.9 to 12.4, now admitted for post-op monitoring.  

# Food impaction: Patient was at a funeral reception when 
acutely felt like food was stuck in his throat after eating a 
piece of chicken. He continued to have difficulty handling 
secretions and given this, he went to the ED for further 
evaluation. On EGD, he was found to have food impaction that was 
cleared.

# Esophageal tear/bleeding: seen on EGD while food impaction 
being cleared with no evidence of bleeding at end of procedure. 
H/H initially dropped from 13.9 to 12.4, but remained stable 
after. Monitored overnight with no issues. Discharged on 
omeprazole to facilitate healing.

# opiate abuse: pt reported hx of opiate abuse which he is self 
treating with mother's ___ 2mg BID. Only mother knows about 
it. Seen by social worker. Patient was agreeable and will follow 
up with PCP ___: further care for opiate abuse.

 
Medications on Admission:
None
 
Discharge Medications:
1.  Omeprazole 20 mg PO DAILY 
RX *omeprazole 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Food Impaction
Esophageal tear and bleeding
Opiate abuse

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were seen in the hospital with concern for your recent 
trouble swallowing and were found to have a impaction of food 
which was removed by our GI team. You had small tear and brief 
bleeding. You were monitored overnight in the hospital with no 
other abnormalities. Your blood work in the morning remained 
stable. You will be contacted by our GI team to have endoscopy 
in ___ weeks. You told us that you have had concerns over opiate 
abuse and have been self treating. You were seen by our social 
worker. You should continue to discuss with your PCP to get 
further care.

Sincerely,
___ team
 
Followup Instructions:
___